US08835422B2
Step 2: Preparation of 3-phenyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepine-1-carboxylic acid:
(E)-7-methoxy-3,4,5,6-tetrahydro-2H-azepine (0.395 g, 3.10 mmol) and 2-phenyloxazol-5(4H)-one (0.5 g, 3.10 mmol) were dissolved together in THF (2 mL) and DCE (2 mL) in a 5 mL microwave vial to give a orange solution. The vial was sealed and the solution was heated to 150° C. for 5 minutes. LCMS showed two peaks of the same mass (tautomers of the condensation product, Rf 0.78 and 0.83 minutes, respectively). The reaction was concentrated and the residue diluted with MeOH (1 mL) and a solution of lithium hydroxide monohydrate (0.391 g, 9.31 mmol) in water (0.5 mL). The reaction was subjected to microwave irradiation and heated at 120° C. for 5 minutes. LCMS showed a single, new peak (Rf0.53 same molecular weight) corresponding to the desired product. The reaction was concentrated to remove MeOH and then diluted with water (1 mL). The solution was acidified to pH 2 with 5M HCl and extracted with of DCM (3×2 mL). The combined organic layers were filter, dried over anhydrous sodium sulfate and evaporated under reduced pressure to provide 3-phenyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepine-1-carboxylic acid (421 mg, 59%) as a brown oil that was used without further purification. LCMS (+ESI) m/z 257.1 [M+H]+.

reactant | (E)-7-methoxy-3,4,5,6-tetrahydro-2H-azepine | 3.10 mmol, 0.395 g | CO/C=1/CCCCC\N1 | C7H13NO
reactant | 2-phenyloxazol-5(4H)-one | 3.10 mmol, 0.5 g | C1(=CC=CC=C1)C=1OC(CN1)=O | C9H7NO2
reactant | DCE | 2 mL | ClCCCl | C2H4Cl2
reactant | lithium hydroxide monohydrate | 9.31 mmol, 0.391 g | O.[OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 3-phenyl-6,7,8,9-tetrahydro-5H-imidazo[1,5-a]azepine-1-carboxylic acid | C1(=CC=CC=C1)C1=NC(=C2N1CCCCC2)C(=O)O | C15H16N2O2
